US04740513
5-Acetyl-1-(4-amino-3-methylphenyl)-2,4-dimethylimidazole
Methyllithium (219 cm3 of a 1.5M solution in ether) was added dropwise to a stirred suspension of 1-(4-amino-3-methylphenyl)-5-cyano-2,4-dimethylimidazole (9.3 g) in ether (100 cm3) at -70° under nitrogen. The mixture was allowed to warm to room temperature over 1 hour and then heated under reflux for 5 hours. The mixture was quenched by the dropwise addition of water (50 cm3), acidified with 2M hydrochloric acid (50 cm3), and warmed on a steam bath for 5 minutes. The mixture was basified with 10% sodium carbonate solution to pH9 and extracted with dichloromethane (3×200 cm3). The combined and dried (MgSO4) organic extracts were evaporated in vacuo to give a residue which was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]). Elution of the column with hexane:ethyl acetate, 1:1, gave firstly fractions containing recovered starting material (2.9 g). Further elution with hexane:ethyl acetate, 1:4, followed by combination and evaporation of the appropriate fractions, afforded the title compound as an oil (5.6 g), which was used (Preparation 11) without further purification.

reactant | Methyllithium | C[Li]
reactant | 1-(4-amino-3-methylphenyl)-5-cyano-2,4-dimethylimidazole | 9.3 g | NC1=C(C=C(C=C1)N1C(=NC(=C1C#N)C)C)C | C13H14N4
reactant | ether | CCOCC | C4H10O
reactant | ether | 100 cm3 | CCOCC | C4H10O
product | 5-Acetyl-1-(4-amino-3-methylphenyl)-2,4-dimethylimidazole | 5.6 g | C(C)(=O)C1=C(N=C(N1C1=CC(=C(C=C1)N)C)C)C | C14H17N3O
